US05739129
2-[3-Amino-5-(4-methoxy-benzyl)-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirred solution of N-Isopropyl-2-[5-(4-methoxy-benzyl)-2,4-dioxo-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-methoxy-phenyl)-acetamide (4.55 g, 7.51 mmol) in acetic acid (50 mL) was added zinc dust (4.50 g) and the resultant mixture was stirred 4 hours at ambient temperature. The zinc was separated by filtration, the filtrate was concentrated in vacuo, and the resultant oil partitioned between water (150 mL) and ethyl acetate (250 mL). The pH was adjusted to 8 with 6N sodium hydroxide and the phases separated. The aqueous phase was extracted with ethyl acetate (2×80 mL) and the organics combined, dried with magnesium sulfate, filtered and concentrated in vacuo to a brown oil. The crude product was purified via flash chromatography on silica gel (70 g) eluting successively with EtOAc/Hexanes (2:1, 500 mL) and methylene chloride/methanol (19:1, 500 mL). Appropriate fractions were combined and concentrated to give the title compound (2:85 g, 5.52 mmol) as a brown oil: 1H NMR (300 MHz, CDCl3): d 7.43 (d, J=7.3 Hz, 1H), 7.30-7.19 (m, 4H), 7.05-6.90 (m, 5H), 6.59 (d, J=8.8 Hz, 2H), 5.13 (d, J=15.1 Hz, 1H), 5.00 (m, 1H), 4.86 (d, J=15.1 Hz, 1H), 4.25 (s, 1H), 4.21 (d, J=16.6 Hz, 1H), 3.85 (s, 3H), 3.69 (s, 3H), 3.48 (d, J=16.6 Hz, 1H), 1.09 (m, 6H); TLC (CH2 Cl2 /CH3OH (29:1)): Rf =0.11.

reactant | N-Isopropyl-2-[5-(4-methoxy-benzyl)-2,4-dioxo-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-methoxy-phenyl)-acetamide | 7.51 mmol, 4.55 g | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)=NNC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC)C=CC=C2)=O)C2=CC=C(C=C2)OC | C35H35N5O5
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.50 g | [Zn] | Zn
product | 2-[3-Amino-5-(4-methoxy-benzyl)-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 5.52 mmol, 85 g | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)CC2=CC=C(C=C2)OC)=O | C29H32N4O5
